US08703761B2
B. 2-Methyl-2-[((R)-3-phenyl-pyrrolidine-1-carbonyl)-amino]-propionic acid methyl ester
Combine 2-methyl-2-(4-nitro-phenoxycarbonylamino)-propionic acid methyl ester (500 mg, 1.77 mmol) and (R)-3-phenyl-pyrrolidine hydrochloride (325 mg, 1.77 mmol) in 1,4-dioxane (5 mL). Add TEA (494 uL, 3.54 mmol) and heat to 130° C. for 5 min by microwave irradiation. Dilute the reaction mixture with DCM (100 mL) and extract with 1 N NaOH (30 mL) followed by 1 N HCl (30 mL). Dry the organic layer over MgSO4 and concentrate. Purify the concentrate by silica gel chromatography (40-60% EtOAc/HEP) to afford the title compound: 1H NMR (400 MHz, DICHLOROMETHANE-d2) 1.51 (d, J=1.77 Hz, 6H) 1.98-2.14 (m, 1H) 2.22-2.38 (m, 1H) 3.31 (t, J=9.28 Hz, 1H) 3.35-3.48 (m, 2H) 3.53-3.65 (m, 1H) 3.70 (s, 3H) 3.80 (dd, J=9.41, 7.52 Hz, 1H) 7.15-7.40 (m, 5H).

reactant | 2-methyl-2-(4-nitro-phenoxycarbonylamino)-propionic acid methyl ester | 1.77 mmol, 500 mg | COC(C(C)(NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C12H14N2O6
reactant | (R)-3-phenyl-pyrrolidine hydrochloride | 1.77 mmol, 325 mg | Cl.C1(=CC=CC=C1)[C@@H]1CNCC1
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Methyl-2-[((R)-3-phenyl-pyrrolidine-1-carbonyl)-amino]-propionic acid methyl ester | COC(C(C)(NC(=O)N1C[C@H](CC1)C1=CC=CC=C1)C)=O | C16H22N2O3
